US06593330B2
Step 1: 2-Chloro-6-(cyclopentylmethoxy)pyrazine
K-t-BuO (1.65 g, 14.7 mmol) was added portionwise to a stirred mixture of cyclopentanemethanol (2.99 g, 29.9 mmol) and 2,6-dichloropyrazine (1.90 g, 12.8 mmol) in dioxane (6 mL) at 0° C. (ice-bath). The reaction mixture was then stirred for 2.5 h, while the temperature was allowed to reach room temperature. The reaction mixture was diluted with dichloromethane/ether (1:1), filtered, and concentated in vacuo. The beige liquid was purified by column chromatography on silica gel (18×4 cm) using n-hexane/ethyl acetate (94:6) as eluent. Two chromatographic runs afforded 1.66 g (61%) of the title compound as a colorless oil. HRMS m/z calcd for C10H13ClN2O (M)+212.0716, found 212.0723. Anal. (C10H13ClN2O) C, H, N.

reactant | cyclopentanemethanol | 29.9 mmol, 2.99 g | C1(CCCC1)CO | C6H12O
reactant | 2,6-dichloropyrazine | 12.8 mmol, 1.90 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane ether | ClCCl.CCOCC
product | 2-Chloro-6-(cyclopentylmethoxy)pyrazine | 1.66 g, 61% | ClC1=NC(=CN=C1)OCC1CCCC1 | C10H13ClN2O
